US04200466
Preparation of 3-{[α-(hexadecyloxycarbonyl)ethyl]amino}phenol [Compound (7)]
Into 25 g of m-aminophenol while heating under reflux in 200 ml of methanol was added dropwise over a period of 3 hours a solution of 37 g of hexadecyl α-bromopropionate in 100 ml of methanol. After completion of the addition, the refluxing was continued for an additional 3 hours, the methanol was then distilled off, the concentrate was dissolved in 300 cc of ethyl acetate, and the solution was washed twice with 300 cc of 10% hydrochloric acid. The ethyl acetate phase was washed with water, dried over sodium sulfate and was then concentrated. The concentrate was cooled with ice, whereby pale yellow crystals were deposited. The yield was 25 g and the melting point was 35°-40° C.

reactant | m-aminophenol | 25 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | hexadecyl α-bromopropionate | 37 g | BrC(C(=O)OCCCCCCCCCCCCCCCC)C | C19H37BrO2
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 3-{[α-(hexadecyloxycarbonyl)ethyl]amino}phenol | C(CCCCCCCCCCCCCCC)OC(=O)C(C)NC=1C=C(C=CC1)O | C25H43NO3
